US08030304B2
(2-{5-[7-(1-Ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-3-yl]-4-trifluoromethyl-thiazol-2-ylamino}-ethyl)-carbamic acid tert-butyl ester
Add (2-amino-ethyl)-carbamic acid tert-butyl ester (0.5 mL, 506 mg, 3.2 mmol) to a solution of 3-(2-bromo-4-trifluoromethyl-thiazol-5-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (100 mg, 0.22 mmol) and triethylamine (0.3 mL, 222 mg, 2.2 mmol) in methanol (1 mL). Evaporate off the methanol and heat to 80° C. overnight. Cool the reaction to room temperature and concentrate under vacuum. Purify the resulting residue by column chromatography, eluting with 10-50% ethyl acetate in CH2Cl2, to give the title compound (0.11 g, 97%). ES/MS m/z 527.2 (M+1)+.

reactant | (2-amino-ethyl)-carbamic acid tert-butyl ester | 3.2 mmol, 0.5 mL, 506 mg | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | 3-(2-bromo-4-trifluoromethyl-thiazol-5-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 0.22 mmol, 100 mg | BrC=1SC(=C(N1)C(F)(F)F)C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C | C17H18BrF3N4S
reactant | triethylamine | 2.2 mmol, 0.3 mL, 222 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | 1 mL | CO | CH4O
product | (2-{5-[7-(1-Ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-3-yl]-4-trifluoromethyl-thiazol-2-ylamino}-ethyl)-carbamic acid tert-butyl ester | 0.11 g, 97% | C(C)(C)(C)OC(NCCNC=1SC(=C(N1)C(F)(F)F)C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C)=O | C24H33F3N6O2S
